Name:  ___.                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea on exertion, fatigue
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ year old male without significant past medical 
history who presented to his PCP with dyspnea on exertion. In 
___ he had an episode of diarrhea as well as fatigue which 
was self limiting and resolved. Over the past few days he 
presented with new dyspnea on exertion and fatigue. At his PCP's 
office, a CBC with diff, TSH, and chem 10 were checked. His 
hematocrit was 25 and his platelets were 11. 

He has also noted a breast mass over the past week which is new. 


Vitals in the ED: 97.8 59 145/69 16 100% ra 
He was sent directly to ___ per the instructions of the heme/onc 
team for full evaluation.
 
Past Medical History:
Prostatitis in ___ 
Seizure vs. Syncope - ___, holter, MRI/MRA, EEG all negative
Lyme Disease in ___
 
Social History:
___
Family History:
Brother Alive ___ 
Father ___ at ___ Cancer; Diabetes - Unknown Type 
Mother ___ at ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VITALS - T 97.8, HR 64, BP 158/80, RR 20, sat 100% 
General: NAD, NC/AT, healthy appearing middle aged male
HEENT: MMM, OP clear, EOMI, anicteric sclera  
LYMPH: No LAD
CHEST: 2cm ___ mass, NT to palpation on the left chest  
 
CV: Normal rate, reg rhythm 
RESP: CTAB, no wheezes, rales, rhonchi
GI: Soft, NT, ND, NABS
GU: No foley
Ext: Warm, well profused, no edema   
Neuro: Oriented, appropriate, linear thought, no gross deficits
DERM: No active rash 

DISCHARGE PHYSICAL EXAM
VITALS - Tmax 98.9, Tcurr 98.3, BP 114/64, HR 73, RR 18, Sat 
100% on RA
General: NAD, healthy appearing middle aged male
HEENT: NCAT, MMM, OP clear, no oral lesions or ulcers  
LYMPH: No LAD
CV: RRR, S1/S2, no murmurs, rubs, gallops, or clicks 
RESP: CTAB, no wheezes, rales, rhonchi
GI: Soft, NT, ND, NABS
GU: No foley
Ext: Warm, well profused, no edema   
Neuro: Oriented, appropriate, linear thought, no gross deficits
DERM: No rash, petechiae, or ecchymosis
 
Pertinent Results:
ADMISSION LABS
___ 08:30PM BLOOD WBC-5.0 RBC-2.82* Hgb-9.7* Hct-27.7* 
MCV-98 MCH-34.4* MCHC-35.0 RDW-18.9* Plt Ct-12*
___ 08:30PM BLOOD Neuts-30* Bands-0 Lymphs-47* Monos-4 
Eos-5* Baso-0 ___ Metas-1* Myelos-1* Promyel-7* Blasts-5* 
NRBC-13* Other-0
___ 08:30PM BLOOD ___ PTT-28.2 ___
___ 08:30PM BLOOD ___ 03:15AM BLOOD QG6PD-9.9
___ 08:30PM BLOOD Ret Aut-3.8*
___ 08:30PM BLOOD Glucose-124* UreaN-18 Creat-1.1 Na-139 
K-4.2 Cl-102 HCO3-26 AnGap-15
___ 08:30PM BLOOD ALT-41* AST-48* LD(___)-558* AlkPhos-63 
TotBili-1.3
___ 08:30PM BLOOD Calcium-9.7 Phos-3.2 Mg-2.1 UricAcd-6.0
___ 08:30PM BLOOD D-Dimer-535*
___ 08:30PM BLOOD Hapto-<5*
___ 08:30PM BLOOD HBsAg-NEGATIVE HBcAb-NEGATIVE
___ 08:30PM BLOOD HIV Ab-NEGATIVE
___ 08:30PM BLOOD ___

HOSPITAL COURSE
___ 03:15AM BLOOD WBC-4.7 RBC-2.79* Hgb-9.5* Hct-26.9* 
MCV-96 MCH-33.9* MCHC-35.2* RDW-18.9* Plt Ct-11*
___ 06:15AM BLOOD WBC-3.3* RBC-2.57* Hgb-8.7* Hct-24.8* 
MCV-97 MCH-33.8* MCHC-34.9 RDW-18.8* Plt Ct-8*
___ 07:30PM BLOOD WBC-2.9* RBC-2.09* Hgb-7.2* Hct-20.3* 
MCV-97 MCH-34.3* MCHC-35.3* RDW-19.0* Plt Ct-44*#
___ 04:23AM BLOOD WBC-3.0* RBC-2.55* Hgb-8.4* Hct-23.6* 
MCV-93 MCH-32.8* MCHC-35.4* RDW-18.8* Plt Ct-43*
___ 12:00AM BLOOD WBC-3.5* RBC-2.71* Hgb-8.8* Hct-26.0* 
MCV-96 MCH-32.4* MCHC-33.9 RDW-18.8* Plt Ct-42*
___ 10:59PM BLOOD WBC-1.7*# RBC-2.42* Hgb-8.4* Hct-22.9* 
MCV-95 MCH-34.7* MCHC-36.7* RDW-18.2* Plt Ct-28*
___ 12:31AM BLOOD WBC-0.6*# RBC-2.21* Hgb-7.2* Hct-20.7* 
MCV-94 MCH-32.4* MCHC-34.6 RDW-17.8* Plt Ct-17*
___ 12:00AM BLOOD WBC-0.4* RBC-2.36* Hgb-7.6* Hct-21.8* 
MCV-93 MCH-32.4* MCHC-35.0 RDW-17.6* Plt Ct-10*
___ 12:34AM BLOOD WBC-0.6* RBC-2.33* Hgb-7.4* Hct-21.6* 
MCV-93 MCH-31.7 MCHC-34.3 RDW-17.1* Plt Ct-31*
___ 12:00AM BLOOD WBC-0.6* RBC-2.07* Hgb-6.6* Hct-19.2* 
MCV-93 MCH-31.9 MCHC-34.4 RDW-16.7* Plt Ct-22*
___ 12:00AM BLOOD WBC-0.8* RBC-2.44* Hgb-7.7* Hct-22.3* 
MCV-92 MCH-31.5 MCHC-34.4 RDW-16.1* Plt Ct-21*
___ 12:00AM BLOOD WBC-0.9* RBC-2.34* Hgb-7.7* Hct-20.9* 
MCV-89 MCH-33.0* MCHC-37.0* RDW-15.4 Plt Ct-10*#
___ 12:16AM BLOOD WBC-0.5* RBC-2.43* Hgb-7.9* Hct-21.6* 
MCV-89 MCH-32.3* MCHC-36.4* RDW-14.7 Plt Ct-25*
___ 11:02PM BLOOD WBC-0.4* RBC-2.40* Hgb-7.9* Hct-21.4* 
MCV-89 MCH-32.9* MCHC-37.0* RDW-14.6 Plt Ct-17*
___ 11:30PM BLOOD WBC-0.5* RBC-2.50* Hgb-7.9* Hct-22.1* 
MCV-88 MCH-31.8 MCHC-35.9* RDW-14.4 Plt Ct-13*
___ 12:00AM BLOOD WBC-0.4* RBC-2.67* Hgb-8.6* Hct-23.4* 
MCV-88 MCH-32.3* MCHC-36.9* RDW-14.0 Plt Ct-8*
___ 12:00AM BLOOD WBC-0.4* RBC-2.55* Hgb-8.3* Hct-22.1* 
MCV-87 MCH-32.6* MCHC-37.6* RDW-13.9 Plt Ct-19*
___ 12:01AM BLOOD WBC-0.4* RBC-2.48* Hgb-7.8* Hct-21.7* 
MCV-87 MCH-31.3 MCHC-35.8* RDW-14.0 Plt Ct-12*
___ 12:00AM BLOOD WBC-0.4* RBC-2.53* Hgb-7.9* Hct-22.8* 
MCV-90 MCH-31.3 MCHC-34.7 RDW-13.7 Plt Ct-10*
___ 12:00AM BLOOD WBC-0.1*# RBC-2.03* Hgb-6.3* Hct-17.7* 
MCV-87 MCH-31.0 MCHC-35.5* RDW-13.3 Plt Ct-25*
___ 12:58PM BLOOD Hct-23.8*#
___ 06:10AM BLOOD WBC-.1* RBC-2.76*# Hgb-8.2*# Hct-23.2* 
MCV-84 MCH-29.8 MCHC-35.4* RDW-15.7* Plt Ct-16*
___ 06:35AM BLOOD WBC-0.1* RBC-2.56* Hgb-7.7* Hct-21.9* 
MCV-85 MCH-30.2 MCHC-35.4* RDW-15.1 Plt Ct-16*
___ 08:00AM BLOOD WBC-0.2*# RBC-2.68* Hgb-8.0* Hct-22.6* 
MCV-85 MCH-29.9 MCHC-35.4* RDW-14.6 Plt Ct-30*#
___ 06:25AM BLOOD WBC-0.5*# RBC-2.97* Hgb-9.0* Hct-25.4* 
MCV-86 MCH-30.2 MCHC-35.3* RDW-14.6 Plt Ct-50*#
___ 06:55AM BLOOD WBC-1.3*# RBC-3.24* Hgb-9.8* Hct-28.1* 
MCV-87 MCH-30.2 MCHC-34.8 RDW-14.6 Plt ___
___ 06:15AM BLOOD WBC-4.1# RBC-3.16* Hgb-9.5* Hct-27.6* 
MCV-87 MCH-30.2 MCHC-34.5 RDW-14.5 Plt ___
___ 09:10AM BLOOD WBC-5.1 RBC-3.63* Hgb-10.7* Hct-31.8* 
MCV-88 MCH-29.6 MCHC-33.7 RDW-14.8 Plt ___
___ 06:45AM BLOOD WBC-3.4* RBC-3.21* Hgb-9.7* Hct-28.5* 
MCV-89 MCH-30.2 MCHC-34.0 RDW-14.8 Plt ___
___ 07:10AM BLOOD WBC-4.9 RBC-3.49* Hgb-10.3* Hct-29.9* 
MCV-86 MCH-29.5 MCHC-34.4 RDW-15.1 Plt ___
___ 06:25AM BLOOD WBC-5.0 RBC-3.48* Hgb-10.2* Hct-30.4* 
MCV-87 MCH-29.3 MCHC-33.7 RDW-15.6* Plt ___
___ 06:15AM BLOOD ___ PTT-27.4 ___
___ 04:23AM BLOOD ___ PTT-29.2 ___
___ 12:34AM BLOOD ___ PTT-24.9* ___
___ 12:16AM BLOOD ___ PTT-25.3 ___
___ 12:00AM BLOOD ___ PTT-30.2 ___
___ 06:10AM BLOOD ___ PTT-31.0 ___
___ 02:45PM BLOOD ___
___ 06:35AM BLOOD ___ PTT-27.3 ___
___ 08:00AM BLOOD ___ PTT-27.1 ___
___ 06:25AM BLOOD ___ PTT-30.9 ___
___ 06:15AM BLOOD Glucose-113* UreaN-12 Creat-0.9 Na-144 
K-4.6 Cl-110* HCO3-28 AnGap-11
___ 10:59PM BLOOD Glucose-158* UreaN-20 Creat-0.9 Na-138 
K-3.8 Cl-108 HCO3-25 AnGap-9
___ 12:00AM BLOOD Glucose-168* UreaN-22* Creat-0.8 Na-137 
K-4.2 Cl-106 HCO3-25 AnGap-10
___ 12:00AM BLOOD Glucose-137* UreaN-24* Creat-0.9 Na-136 
K-3.6 Cl-105 HCO3-24 AnGap-11
___ 12:00AM BLOOD Glucose-120* UreaN-19 Creat-0.9 Na-136 
K-4.1 Cl-102 HCO3-26 AnGap-12
___ 06:10AM BLOOD Glucose-155* UreaN-14 Creat-0.9 Na-135 
K-3.7 Cl-102 HCO3-22 AnGap-15
___ 08:00AM BLOOD Glucose-125* UreaN-13 Creat-0.8 Na-134 
K-3.5 Cl-101 HCO3-24 AnGap-13
___ 06:55AM BLOOD Glucose-116* UreaN-8 Creat-0.7 Na-137 
K-3.2* Cl-101 HCO3-26 AnGap-13
___ 09:10AM BLOOD Glucose-171* UreaN-9 Creat-0.8 Na-135 
K-4.0 Cl-99 HCO3-26 AnGap-14
___ 07:10AM BLOOD Glucose-107* UreaN-12 Creat-0.8 Na-137 
K-4.3 Cl-102 HCO3-30 AnGap-9
___ 06:25AM BLOOD Glucose-107* UreaN-13 Creat-0.8 Na-136 
K-4.7 Cl-100 HCO3-29 AnGap-12
___ 06:15AM BLOOD ALT-28 AST-32 LD(LDH)-403* AlkPhos-48 
TotBili-0.9
___ 12:00AM BLOOD ALT-31 AST-34 LD(LDH)-453* AlkPhos-51 
TotBili-1.1
___ 12:31AM BLOOD ALT-43* AST-38 LD(___)-383* AlkPhos-48 
TotBili-0.8
___ 12:00AM BLOOD ALT-50* AST-31 LD(___)-290* AlkPhos-46 
TotBili-0.8
___ 12:00AM BLOOD ALT-46* AST-23 LD(___)-250 AlkPhos-43 
TotBili-0.7
___ 12:16AM BLOOD ALT-39 AST-20 LD(___)-224 AlkPhos-38* 
TotBili-0.8
___ 11:02PM BLOOD ALT-38 AST-19 LD(___)-226 AlkPhos-46 
TotBili-0.6
___ 11:30PM BLOOD ALT-36 AST-17 LD(___)-218 AlkPhos-48 
TotBili-0.6
___ 12:00AM BLOOD ALT-38 AST-24 LD(LDH)-214 AlkPhos-63 
TotBili-0.8
___ 12:01AM BLOOD ALT-42* AST-23 LD(LDH)-203 AlkPhos-70 
TotBili-0.7
___ 12:00AM BLOOD ALT-44* AST-23 LD(___)-200 AlkPhos-86 
TotBili-0.6
___ 12:00AM BLOOD ALT-52* AST-30 LD(___)-191 AlkPhos-98 
TotBili-0.9
___ 06:10AM BLOOD ALT-51* AST-21 LD(___)-196 AlkPhos-109 
TotBili-1.9* DirBili-0.9* IndBili-1.0
___ 02:45PM BLOOD ALT-43* AST-13 AlkPhos-93 TotBili-1.4 
DirBili-0.7* IndBili-0.7
___ 08:00AM BLOOD ALT-28 AST-12 LD(___)-181 AlkPhos-101 
TotBili-1.4
___ 06:25AM BLOOD ALT-48* AST-34 LD(___)-206 AlkPhos-134* 
TotBili-1.1
___ 06:55AM BLOOD ALT-67* AST-39 AlkPhos-163* TotBili-0.7
___ 06:15AM BLOOD ALT-76* AST-39 LD(___)-280* AlkPhos-160* 
TotBili-0.6
___ 09:10AM BLOOD ALT-101* AST-51* LD(___)-289* 
AlkPhos-174* TotBili-0.5
___ 06:45AM BLOOD ALT-100* AST-50* LD(___)-239 AlkPhos-154* 
TotBili-0.4
___ 07:10AM BLOOD ALT-114* AST-57* LD(___)-226 AlkPhos-145* 
TotBili-0.4
___ 06:25AM BLOOD ALT-110* AST-49* LD(LDH)-216 AlkPhos-142* 
TotBili-0.4
___ 06:15AM BLOOD Calcium-8.6 Phos-2.6* Mg-2.3
___ 04:26PM BLOOD Calcium-8.7 Phos-2.8 Mg-2.0 UricAcd-3.4
___ 12:31AM BLOOD Calcium-8.0* Phos-3.3 Mg-2.1 UricAcd-3.5
___ 12:00AM BLOOD Calcium-8.4 Phos-3.1 Mg-2.3 UricAcd-3.2*
___ 12:34AM BLOOD Calcium-8.5 Phos-2.5* Mg-2.2 UricAcd-2.8*
___ 12:00AM BLOOD Calcium-9.2 Phos-2.7 Mg-2.2 UricAcd-2.6*
___:00AM BLOOD Calcium-8.2* Phos-2.2* Mg-2.3 
UricAcd-2.6*
___ 11:30PM BLOOD Calcium-8.8 Phos-3.6 Mg-2.1
___ 12:01AM BLOOD Calcium-8.6 Phos-3.5 Mg-2.1
___ 12:00AM BLOOD Calcium-8.4 Phos-2.8 Mg-2.0
___ 08:00AM BLOOD Calcium-8.2* Phos-1.2* Mg-2.1
___ 06:15AM BLOOD Calcium-8.4 Phos-3.0 Mg-2.0
___ 06:45AM BLOOD Albumin-3.4* Calcium-8.5 Phos-3.2 Mg-2.3
___ 07:10AM BLOOD Calcium-9.0 Phos-3.1 Mg-2.4
___ 06:25AM BLOOD Calcium-8.9 Phos-3.5 Mg-2.4
___ 06:10AM BLOOD Vanco-6.2*
___ 08:00AM BLOOD Vanco-10.4
___ 06:55AM BLOOD Vanco-17.1
___ 09:10AM BLOOD Vanco-18.1
___ 06:25AM BLOOD Vanco-28.3*
___ 08:30PM BLOOD HIV Ab-NEGATIVE
___ 08:30PM BLOOD HBsAg-NEGATIVE HBcAb-NEGATIVE
___ 08:30PM BLOOD Hapto-<5*
___ 11:08AM BLOOD Hapto-<5*
___ 08:30PM BLOOD D-Dimer-535*

DISCHARGE LABS
___ 06:35AM BLOOD WBC-4.5 RBC-3.51* Hgb-11.2* Hct-31.8* 
MCV-91 MCH-32.0 MCHC-35.4* RDW-16.1* Plt ___
___ 06:35AM BLOOD Neuts-77* Bands-3 Lymphs-8* Monos-4 Eos-2 
Baso-2 ___ Metas-1* Myelos-3*
___ 06:35AM BLOOD Glucose-109* UreaN-17 Creat-0.8 Na-137 
K-4.8 Cl-100 HCO3-30 AnGap-12
___ 06:35AM BLOOD ALT-112* AST-51* LD(LDH)-211 AlkPhos-135* 
TotBili-0.4
___ 06:35AM BLOOD Albumin-3.5 Calcium-9.3 Phos-3.4 Mg-2.4

MICRO
___ 3:30 pm BLOOD CULTURE      Source: Line-TLCL. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      VIRIDANS STREPTOCOCCI. 
         Isolated from only one set in the previous five days. 
         SENSITIVITY REQUESTED BY ___. ___ ___. 
         Sensitivity testing performed by Sensititre. 
         CLINDAMYCIN <= 0.12 MCG/ML.  FINAL SENSITIVITIES. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             VIRIDANS STREPTOCOCCI
                             |   
CLINDAMYCIN-----------       S
ERYTHROMYCIN----------   =>8 R
PENICILLIN G----------<=0.06 S
VANCOMYCIN------------   <=1 S

Chest CT without contrast ___:
IMPRESSION: 
1.  Numerous small ground glass and semi-solid pulmonary nodules 
are randomly distributed throughout all lobes of both lungs and 
are new since the prior study.  Although this finding is not 
concerning for malignant disease, their presence in a 
neutropenic patient could represent an inflammatory or 
infectious process such as viral pneumonia.  No evidence of 
bacterial or fungal pneumonia. 
2.  Interval decrease in size of left breast nodule, in keeping 
with a 
hematoma as described on recent diagnostic mammogram from 
___. 
3.  Numerous bilateral axillary and mediastinal lymph nodes are 
not 
pathologically enlarged. 
4.  Trace left pleural effusion (5:206). 

TTE ___
IMPRESSION: Preserved regional and global biventricular systolic 
function. Trace aortic regurgitation.  

CT chest/abdomen/pelvis ___. Left breast nodule as described that should be further  
correlated with tissue biopsy.
2. Right axillary lymph nodes, not pathologically enlarged but 
multiple.
3. Several pulmonary nodules that should be reassessed in three 
months for assessment of stability.
4. Mild splenomegaly.   
5. Sigmoid diverticulosis but no diverticulitis. 

Bilateral Diagnostic Mammography ___
1. There are two echogenic/hypoechoic masses lateral to the left 
nipple having the appearance of  hematomas. 
2. Bilateral moderate gynecomastia. 
BI-RADS 3 -- probably benign.

 
Brief Hospital Course:
BRIEF SUMMARY:  Mr. ___ is a ___ year old male without 
significant past medical history originally presenting w/ DOE, 
fatigue, and diarrhea found to have anemia and thrombocytopenia. 
 Bone marrow biopsy consistent with AML on ECOG 2906 and 
randomized to 7+3 (day ___ now C1D28 with course complicated 
by neutropenic fever likely secondary to strep viridans 
bacteremia.

ACTIVE ISSUES:

# AML:  Patient presented with fatigue, diarrhea, and DOE, found 
to have anemia and thrombocytopenia.  Prelim reading on smear 
shows multiple blasts concerning for AML.  Bone marrow biopsy 
was performed and confirmed AML.  The patient was started on a 
clinical trial and randomized to the 7+3 arm (Day ___.  FISH 
negative.  Karyotype normal.  NPM negative, FLT3 negative 
consistent with intermediate Risk genotype.  Hemoglobin 
electrophoresis with 100% Hgb A.  Day 14 bone marrow is ablated, 
no blasts.  A bone marrow donor screen was begun and the 
patient's sister is a confirmed donor match.  The patient had a 
repeat bone marrow on Day ___, the day of discharge. 

# Neutropenic Fever:  Patient spiked fever to 102.5 on ___ 
w/ exam significant for erythema around line site.  CXR/UA were 
both negative.  Pt. c/o headache and sinus pressure.  Underwent 
Head-CT without any acute infectious process noted.  Blood 
cultures positive for strep viridans 2 out of 4 bottles.  
Central line (originally placed ___ pulled for concern of 
line infection.  Pt. was started on vancomycin and cefepime but 
continued to spike fevers for several days.  Pt.'s ongoing 
fevers were thought to be related to subtherapeutic vanc level 
vs. fungal infection vs. endocarditis without source control vs. 
G-CSF as pt. was started on neupogen around time of first fever. 
 TTE returned without evidence of endocarditis.  Given continued 
fevers, pt. was started on empiric micafungin and a chest CT was 
done which showed possible early viral vs. fungal pneumonia.  
Pulm was consulted who indicated that this could be early fungal 
pneumonia but that BAL at this point would not be useful.  Pt's 
neutropenia resolved.  He had a B glucan, galactomannan, and DFA 
viral swab which all returned negative.  ID recommended treating 
Strep bacteremia for 10 day course with nafcillin.  Pt. without 
central line, therefore continued vanc for ___ompleted on day of discharge.  

# Headache:  The patient experienced significant frontal 
headaches during his admission.  He had a Head CT which was 
normal.  At first, his headaches were thought to be due to 
anemia as they improved slightly with pRBC transfusions.  His 
anemia resolved and his headaches continues.  The patient 
underwent a Head MRI given the acute onset of a sharp headache 
that woke pt. from sleep in the early morning of ___.  MRI 
revealed no evidence of acute intra-cranial process.  The 
headaches improved dramatically when the patient was taken off 
of his neupogen.  This was thought to be the cause.

# Mild Transaminitis:  Both hepatocellular and cholestatic 
hepatitis new as of ___.  Mostly likely ___ to 
fluconazole.  As such, fluconazole was discontinued.  At time of 
discharge, pt.'s LFTs have plateaued and seem to be somewhat 
downtrending.

# Diarrhea:  The patient had several days of ongoing diarrhea 
during his hospitalization.  C. diff PCR was negative.  Diarrhea 
resolved.

Transitional Issues:  
1.  CT Scan:  Pt. had a CT scan which showed semi-solid nodules 
randomly distributed in lung fields possibly consistent with 
early viral pneumonia.  A repeat chest CT without contrast was 
recommended.  You have a CT scheduled on ___.

2.  Infectious Disease Consult:  Pt. requires outpatient 
infectious disease consult prior to transplant

3.  Dental Clearance:  Pt. has a dental appointment on ___. 
 He will bring with him the transplant paperwork to be completed 
at his appointment.  

4.  Flu Shot:  The decision was made not to give the flu vaccine 
given the pt's future chemotherapy and likely immunosuppressed 
state.

5.  Transaminitis:  Pt. had elevated LFTs likely ___ to 
fluconazole on ___  The fluconazole was d/c'ed at this time 
and his LFTs plateaued in the several days leading up to 
discharge.  Please assess for resolution with repeat LFTs.  If 
does not resolve, consider imaging for infectious source.
 
Medications on Admission:
None
 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
RX *acyclovir 400 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*90 Capsule Refills:*0
2. Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule,delayed ___ by 
mouth Daily Disp #*30 Capsule Refills:*0
3. Lorazepam 0.5 mg PO HS:PRN insomnia 
RX *lorazepam [Ativan] 0.5 mg 1 tab by mouth at bedtime Disp 
#*30 Tablet Refills:*0
(Per pt., he had been on ativan at home prior to admission).
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses
1.  Acute Myelogenous Leukemia
2.  Neutropenic fever secondary to strep viridans bacteremia
3.  Anemia
4.  Transaminitis secondary to fluconazole

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you at the ___ 
___.  You presented with shortness of 
breath and fatigue and were found to have very low blood counts. 
 A bone marrow biopsy was done that confirmed acute myelogenous 
leukemia (AML).  You enrolled in a clinical trial and received 
7+3 (cytarabine and danorubicin).  You tolerated the 
chemotherapy very well.  Your repeat day 14 bone marrow biopsy 
showed an ablated marrow without blasts (diseased cells).  You 
spiked a fever and were started on broad spectrum antibiotics 
and your central line was removed.  Urine culture and chest xray 
were clear but your blood cultures were positive for a bacteria 
known as strep viridans.  Your antibiotics were narrowed to 
treat the bacteria and you no longer had any fevers.  You also 
had significant headaches during your hospitalization.  You had 
both a CT scan and MRI which showed no concerning process.  Your 
headache was thought to be due to the neupogen (filgrastim) that 
you were receiving.  We stopped the medication and your 
headaches resolved.  You had a bone marrow biopsy on your day of 
discharge that you tolerated very well.     

All the best,

Your ___ Team
 
Followup Instructions:
___